US06413995B1
0.485 g of 4-(methoxymethoxy)benzophenone was dissolved in 0.45 ml ethyl bromoacetate, 1.5 ml benzene and 1.5 ml toluene, mixed with 3.27 g of zinc and 50 mg of iodine, and then refluxed for 2 hours under a stream of argon. The reaction mixture was mixed with water, adjusted to pH 1 with concentrated sulfuric acid, and then extracted with benzene three times. The extract was filtrated to remove insoluble components, washed twice with water and once with brine, followed by drying over anhydrous magnesium sulfate. The drying agent was filtered off and the filtrate was evaporated and purified via column chromatography on silica gel (ethyl acetate:hexane=1:5) to give ethyl 3-hydroxy-3-[4-(methoxymethoxy)phenyl]-3-phenylpropionate (263 mg, yield: 39.9%) as an oil.

reactant | 4-(methoxymethoxy)benzophenone | 0.485 g | COCOC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C15H14O3
reactant | benzene | 1.5 ml | C1=CC=CC=C1 | C6H6
reactant | iodine | 50 mg | II | I2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethyl bromoacetate | 0.45 ml | BrCC(=O)OCC | C4H7BrO2
catalyst | zinc | 3.27 g | [Zn] | Zn
solvent | water | O | H2O
solvent | toluene | 1.5 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-hydroxy-3-[4-(methoxymethoxy)phenyl]-3-phenylpropionate | 263 mg, yield: 39.9% | OC(CC(=O)OCC)(C1=CC=CC=C1)C1=CC=C(C=C1)OCOC | C19H22O5
